US07196104B2
Preparation AQ: tert Butyl (6-bromopyridin-2-ylmethyl)-(1-formyl-2-methyl-propyl)carbamate
To a flame-dried flask was added oxalyl chloride (70 μL) followed by the addition of dry CH2Cl2 (2 mL). The resulting colorless solution was brought to −63° C. (dry ice/CHCl3) and a solution of DMSO (70 μL) in 0.5 mL dry CH2Cl2 was slowly added drop wise. The (tert-butoxy)-N-[(6-bromo(2-pyridyl))methyl]-N-[2-hydroxy-1-(methylethyl)ethyl]carboxamide (0.19 g, 0.51 mmol), previously dissolved in dry CH2Cl2 (2 mL), was added slowly dropwise. The resulting mixture was kept at −63° C., and stirred for 30 min followed by the slowly addition of a solution of TEA (0.3 mL) in dry CH2Cl2 (1 mL). The mixture was stirred at −63° C. until all the starting material was consumed (checked by MS)(1.5 h). The mixture was brought to −20° C., quenched with a saturated solution of NH4Cl (15 mL) and diluted with EtOAc (35 mL). The organic phase was separated and the aqueous phase was extracted with EtOAc (3×30 mL). The organic layers were combined, dried over MgSO4, filtered and concentrated by rotary evaporation without further purification to afford the title compound as a yellow-semi solid. EI-MS m/z 371 (M+H).

reactant | oxalyl chloride | 70 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dry ice CHCl3 | C(=O)=O.C(Cl)(Cl)Cl
reactant | DMSO | 70 μL | CS(=O)C | C2H6OS
reactant | (tert-butoxy)-N-[(6-bromo(2-pyridyl))methyl]-N-[2-hydroxy-1-(methylethyl)ethyl]carboxamide | 0.51 mmol, 0.19 g | C(C)(C)(C)OC(=O)N(C(CO)C(C)C)CC1=NC(=CC=C1)Br | C16H25BrN2O3
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | tert Butyl (6-bromopyridin-2-ylmethyl)-(1-formyl-2-methyl-propyl)carbamate | BrC1=CC=CC(=N1)CN(C(OC(C)(C)C)=O)C(C(C)C)C=O | C16H23BrN2O3
